US07405233B2
3-[2-(3-Isopropylphenylamino)acetylamino]benzoic acid methyl ester (3.26 g, 10.0 mmol) prepared above was treated with BH3.THF (1.0 M, 40.0 mL, 40.0 mmol) at room temperature for 24 h. The excess borane was destroyed by the addition of HCl (6 M, 10 mL). THF was removed in vacuum and the residue was diluted with water and basified. The organics were separated and the aqueous phase was extracted with dichloromethane. The organics were combined and washed with water and brine, dried over anhydrous Na2SO4 and concentrated. The crude product obtained after the removal of the solvent in vacuum was chromatographed (silica gel, dichloromethane:ethyl acetate, 9.5:0.5) to furnish 3-[2-(3-isopropylphenylamino)ethylamino]benzoic acid methyl ester as a colorless oil (2.28 g, 73.1%). MS (ES+) m/z: 313.

reactant | 3-[2-(3-Isopropylphenylamino)acetylamino]benzoic acid methyl ester | 10.0 mmol, 3.26 g | COC(C1=CC(=CC=C1)NC(CNC1=CC(=CC=C1)C(C)C)=O)=O | C19H22N2O3
reactant | BH3.THF | 40.0 mmol, 1.0 M, 40.0 mL | B.C1CCOC1
product | 3-[2-(3-isopropylphenylamino)ethylamino]benzoic acid methyl ester | 2.28 g, 73.1% | COC(C1=CC(=CC=C1)NCCNC1=CC(=CC=C1)C(C)C)=O | C19H24N2O2
